US07179926B2
3-(3,5-bis(trifluoromethyl)benzyloxy)-2-methyl-2-phenylpropyl 4-methylbenzenesulfonate:
3-(3,5-bis(trifluoromethyl)benzyloxy)-2-methyl-2-phenylpropan-1-ol (1.72 g, 4.39 mmol) was mixed with pyridine (1.39 g, 17.6 mmol) in anhydrous methylene chloride (20 ml) and cooled to −20° C. Solid p-toluenesulfonyl chloride (3.35 g, 17.6 mmol) was added in one portion and the mixture was warmed up naturally to room temperature and stirred overnight. The mixture was then loaded directly onto silica column and eluted with 5% ethyl aceta in hexanes. 1.89 g (79%) of the desired product was obtained. 1H NMR (500 MHz, CDCl3) δ: 1.37 (s, 3 H) 2.38 (s, 3 H) 3.66 (d, J=2.75 Hz, 2 H) 4.21 (d, J=9.46 Hz, 1 H) 4.27 (d, J=9.46 Hz, 1 H) 4.52 (s, 2 H) 7.27 (m, 5 H) 7.35 (d, J=8.24 Hz, 2 H) 7.62 (s, 2 H) 7.70 (s, 1 H) 7.80 (d, J=8.24 Hz, 2 H).

reactant | 3-(3,5-bis(trifluoromethyl)benzyloxy)-2-methyl-2-phenylpropan-1-ol | 4.39 mmol, 1.72 g | FC(C=1C=C(COCC(CO)(C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C19H18F6O2
reactant | pyridine | 17.6 mmol, 1.39 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 17.6 mmol, 3.35 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,5-bis(trifluoromethyl)benzyloxy)-2-methyl-2-phenylpropyl 4-methylbenzenesulfonate | 1.89 g, 79% | CC1=CC=C(C=C1)S(=O)(=O)OCC(COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(C1=CC=CC=C1)C | C26H24F6O4S
